US08138189B2
Step 2: 4-{3-Chloro-4-[2-(1,5-dimethyl-6-oxo-1,6-dihydro-pyridin-3-yl)-3,3,3-trifluoro-2-hydroxy-1-methyl-propyl]-phenoxy}-2-trifluoromethyl-benzoic acid
To a solution of 4-{3-chloro-4-[2-(1,5-dimethyl-6-oxo-1,6-dihydro-pyridin-3-yl)-3,3,3-trifluoro-2-hydroxy-1-methyl-propyl]-phenoxy}-2-trifluoromethyl-benzaldehyde (105 mg) in tert.-butanol (1 ml) and 2-methyl-2-butene (0.12 ml) was added a solution of sodium chlorite (28 mg) and sodiumdihydrogenphosphate-dihydrate (34 mg) in water (0.8 ml) at 0° C. The mixture was stirred for 10 minutes at 0° C. and for 4.5 h at room temperature. The mixture was acidified with 1 M aqueous HCl and extracted with ethyl acetate. The organic phase was dried (MgSO4), filtered and concentrated to give the title compound (104 mg) as a colorless solid. MS (m/e, ISP neg. ion)=562.1 [M−H+].

reactant | 4-{3-chloro-4-[2-(1,5-dimethyl-6-oxo-1,6-dihydro-pyridin-3-yl)-3,3,3-trifluoro-2-hydroxy-1-methyl-propyl]-phenoxy}-2-trifluoromethyl-benzaldehyde | 105 mg | ClC=1C=C(OC2=CC(=C(C=O)C=C2)C(F)(F)F)C=CC1C(C(C(F)(F)F)(O)C1=CN(C(C(=C1)C)=O)C)C | C25H20ClF6NO4
reactant | sodium chlorite | 28 mg | Cl(=O)[O-].[Na+]
reactant | HCl | 1 M | Cl | ClH
solvent | tert.-butanol | 1 ml | C(C)(C)(C)O | C4H10O
solvent | 2-methyl-2-butene | 0.12 ml | CC(C)=CC | C5H10
solvent | water | 0.8 ml | O | H2O
product | 4-{3-Chloro-4-[2-(1,5-dimethyl-6-oxo-1,6-dihydro-pyridin-3-yl)-3,3,3-trifluoro-2-hydroxy-1-methyl-propyl]-phenoxy}-2-trifluoromethyl-benzoic acid | 104 mg | ClC=1C=C(OC2=CC(=C(C(=O)O)C=C2)C(F)(F)F)C=CC1C(C(C(F)(F)F)(O)C1=CN(C(C(=C1)C)=O)C)C | C25H20ClF6NO5
